US05753635
To 2-methylthio-4-benzylamino-5-nitro-6-(2-benzyloxy-5-cyanophenoxy)pyrimidine (1.82 g, 3.76 mmol) in 40 mL MeOH and 40 mL dioxane at 0° C. was added potassium metabisulfite (KHSO5) (3.59 g, 11.3 mmol) in 40 mL water. The suspension was allowed to warm to ambient temperature and stirred for 15 hours. The reaction was concentrated to 25 mL and extracted with methylene chloride (200 mL). The organic layer was dried (Na2 SO4), evaporated and chromatographed on silica gel (2:1, hexane/ethyl acetate) to afford 0.26 g of 2-methylsulfonyl-4-benzylamino-5-nitro-6-(2-benzyloxy-5-cyanophenoxy)pyrimidine, a compound of formula (F), as a white solid.

reactant | 2-methylthio-4-benzylamino-5-nitro-6-(2-benzyloxy-5-cyanophenoxy)pyrimidine | 3.76 mmol, 1.82 g | CSC1=NC(=C(C(=N1)NCC1=CC=CC=C1)[N+](=O)[O-])OC1=C(C=CC(=C1)C#N)OCC1=CC=CC=C1 | C26H21N5O4S
reactant | potassium metabisulfite | 11.3 mmol, 3.59 g | S(=O)(=O)([O-])S(=O)[O-].[K+].[K+]
reactant | MeOH | 40 mL | CO | CH4O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | 40 mL | O | H2O
product | 2-methylsulfonyl-4-benzylamino-5-nitro-6-(2-benzyloxy-5-cyanophenoxy)pyrimidine | 0.26 g | CS(=O)(=O)C1=NC(=C(C(=N1)NCC1=CC=CC=C1)[N+](=O)[O-])OC1=C(C=CC(=C1)C#N)OCC1=CC=CC=C1 | C26H21N5O6S
